US07989461B2
N-((4-bromo-5-methylthiophen-2-yl)methyl)-2,2-dimethoxyethanamine (14.5 g, 49 mmol) was dissolved in DCM (100 ml) and TEA (14 ml, 99 mmol) was added. The reaction was cooled to 0° C. with an ice bath and 4-tosyl chloride (8.5 ml, 59 mmol) was added portionwise. The reaction was allowed to warm up to RT and stirred overnight. The reaction was then diluted with DCM and water. The layers were separated and the organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate purified by column chromatography on silica gel using a gradient of 30 to 70% EtOAc in hexanes to give N-((4-bromo-5-methylthiophen-2-yl)methyl)-N-(2,2-dimethoxyethyl)-4-methylbenzenesulfonamide as light brown oil.

reactant | N-((4-bromo-5-methylthiophen-2-yl)methyl)-2,2-dimethoxyethanamine | 49 mmol, 14.5 g | BrC=1C=C(SC1C)CNCC(OC)OC | C10H16BrNO2S
reactant | 4-tosyl chloride | 59 mmol, 8.5 ml | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-((4-bromo-5-methylthiophen-2-yl)methyl)-N-(2,2-dimethoxyethyl)-4-methylbenzenesulfonamide | BrC=1C=C(SC1C)CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(OC)OC | C17H22BrNO4S2
